US06331640B1
A mixture of 4-(bromomethyl)benzimidazole-1-carboxylic acid, 1,1-dimethylethyl ester (1.08 g, 3.5 mmol), sodium azide (240 mg, 3.7 mmol), and sodium iodide (5 mg) in acetone (10 mL) was heated at reflux for 66 h. The solvent was evaporated and dichloromethane was added. The solution was washed with dilute aqueous sodium hydrogen carbonate, dried (Na2SO4), filtered and evaporated to give 4-(azidomethyl)benzimidazole-1-carboxylic acid, 1,1-dimethylethyl ester (800 mg, 84%).

reactant | 4-(bromomethyl)benzimidazole-1-carboxylic acid, 1,1-dimethylethyl ester | 3.5 mmol, 1.08 g | BrCC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | sodium azide | 3.7 mmol, 240 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
catalyst | sodium iodide | 5 mg | [I-].[Na+]
product | 4-(azidomethyl)benzimidazole-1-carboxylic acid, 1,1-dimethylethyl ester | 800 mg, 84% | N(=[N+]=[N-])CC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H15N5O2
